US06733951B2
(5) Synthesis of p-(1-isobutoxyethoxy)styrene/p-hydroxy-styrene/t-butyl Acrylate (20/59/21) (A-16)
The above polymer (A-48) (20 g) was dissolved in 80 g of propylene glycol monoethyl ether acetate (PGMEA) and the solution was heated at 60° C., and then the pressure was gradually reduced until 20 mmHg, thereby PGMEA and the moisture in the reaction system were azeotropically hydrated. After the azeotropic hydration, the temperature was lowered to 20° C., 2.2 g of isobutyl vinyl ether was added thereto, and further 3 mg of p-toluenesulfonic acid was added. After the addition, reaction was performed for 2 hours, and a small amount of triethylamine was added to neutralize the acid. Thereafter, ethyl acetate was added to the reaction solution, and the salt was removed by washing with ion exchange water. Further, ethyl acetate and water were distilled off under reduced pressure, thereby polymer A-16 was obtained.

reactant | isobutyl vinyl ether | 2.2 g | C(=C)OCC(C)C | C6H12O
reactant | p-toluenesulfonic acid | 3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | propylene glycol monoethyl ether acetate | 80 g | C(C)(=O)OC(COCC)C | C7H14O3
product | p-(1-isobutoxyethoxy)styrene p-hydroxy-styrene t-butyl Acrylate | C(C(C)C)OC(C)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC(C)(C)C | InChI=1S/C14H20O2.C8H8O.C7H12O2/c1-5-13-6-8-14(9-7-13)16-12(4)15-10-11(2)3;1-2-7-3-5-8(9)6-4-7;1-5-6(8)9-7(2,3)4/h5-9,11-12H,1,10H2,2-4H3;2-6,9H,1H2;5H,1H2,2-4H3
